US05464849
6A. 5-Acetyl-4-methyl-2-(3-phenoxyphenyl)oxazole
A mixture of 3-phenoxybenzamide (2.13 g, 10 mmol), 3-phenoxybenzoic acid (4.28 g, 20 mmol), and 3-chloropenta-2,4-dione (0.44 g, 3.3 mmol) was heated to 180° C. under stirring for 23 h. The hot mixture was poured into 1N aqueous sodium hydroxide (100 ml), and extracted with diethyl ether (100+2×50 ml). The combined organic phases were washed with saturated aqueous sodium bicarbonate (50 ml) and brine (50 ml), dried over magnesium sulfate, and evaporated to dryness. Purification by silica gel column chromatography (135 g, 16.7% ethyl acetate in n-hexane) afforded the titled compound as solids in 94% yield: 1H NMR (CDCl3) δ7.88-7.83 (1H, m), 7.77-7.53 (1H, m), 7.49-7.34 (3H, m), 7.18-7.12 (2H, m), 7.07-7.00 (2H, m), 2.55 (3H, s), 2.54 (3 H, s).

reactant | 3-phenoxybenzamide | 10 mmol, 2.13 g | O(C1=CC=CC=C1)C=1C=C(C(=O)N)C=CC1 | C13H11NO2
reactant | 3-phenoxybenzoic acid | 20 mmol, 4.28 g | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O3
solvent | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
product | 5-Acetyl-4-methyl-2-(3-phenoxyphenyl)oxazole | 94% yield | C(C)(=O)C1=C(N=C(O1)C1=CC(=CC=C1)OC1=CC=CC=C1)C | C18H15NO3
